US05359098
6-(6-Morpholinylhexoxy)-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane and morpholine: mp 167°-170° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 6-(6-Morpholinylhexoxy)-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.N1(CCOCC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C25H29NO4.ClH/c27-23-19-25(20-8-4-3-5-9-20)30-24-11-10-21(18-22(23)24)29-15-7-2-1-6-12-26-13-16-28-17-14-26;/h3-5,8-11,18-19H,1-2,6-7,12-17H2;1H
